US07435755B2
Reagents. Stock solutions of CDDO and/or CDDO-Me at 10 mM in DMSO were stored at −20° C. Working solutions were prepared in DMSO and added directly to culture medium. ATRA was purchased from Sigma Chemical Co. (St. Louis, Mo.) and kept in 100% ethanol solution at −20° C. RXR-specific ligand LG-100268 was kindly provided by Dr. Richard Heyman. Caspase-3 inhibitor Z-DEVD-fmk and bongkrekic acid (BA) were obtained from Calbiochem (La Jolla, Calif.). Cyclosporin A (CyA) was purchased from Sandoz. Fas-signaling antibody CH11 and Fas-blocking antibody ZB4 were obtained from Immunotech (Miami, Fla.).

reactant | CDDO | C[C@@]12CC[C@]3(CCC(C[C@H]3[C@H]1C(=O)C=C4[C@]2(CC[C@@H]5[C@@]4(C=C(C(=O)C5(C)C)C#N)C)C)(C)C)C(=O)O | C31H41NO4
reactant | CDDO-Me | C[C@@]12CC[C@]3(CCC(C[C@H]3[C@H]1C(=O)C=C4[C@]2(CC[C@@H]5[C@@]4(C=C(C(=O)C5(C)C)C#N)C)C)(C)C)C(=O)OC | C32H43NO4
reactant | ATRA | CC1=C(C(CCC1)(C)C)/C=C/C(=C/C=C/C(=C/C(=O)O)/C)/C | C20H28O2
reactant | ethanol | C(C)O | C2H6O
solvent | DMSO | CS(=O)C | C2H6OS
product | LG-100268 | CC1=C(C=C2C(=C1)C(CCC2(C)C)(C)C)C3(CC3)C4=NC=C(C=C4)C(=O)O | C24H29NO2
